US05753664
2-[4-(6-Chloronicotinoyl]benzylthio]-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one
A solution of 2-mercapto-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (599 mg), 4-(6-chloronicotinoyl)benzyl bromide (1.179 g) and potassium carbonate (1.148 g) in DMF (40 ml) was stirred at room temperature for 2 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, dried, and concentrated. The residue was recrystallized from tetrahydrofuranethyl acetate to provide the title compound as colorless solid (367 mg).

reactant | 2-mercapto-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 599 mg | SC=1N=C2N(C(C1C)=O)C=CC=C2 | C9H8N2OS
reactant | 4-(6-chloronicotinoyl)benzyl bromide | 1.179 g | ClC1=NC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C13H9BrClNO
reactant | potassium carbonate | 1.148 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-[4-(6-Chloronicotinoyl]benzylthio]-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 367 mg | ClC1=NC=C(C(=O)C2=CC=C(CSC=3N=C4N(C(C3C)=O)C=CC=C4)C=C2)C=C1 | C22H16ClN3O2S
